US07576109B2
Intermediate: 4-([4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methoxymethyl]-benzoic acid methyl ester
Cool (−5° C.) a suspension of NaH (84 mg, 60% dispersion in mineral oil, 2.05 mmol) in THF (4 mL) and add a solution comprised of 2-([4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methanol (546 mg, 2 mmol) and 4-bromomethyl-benzoic acid methyl ester (458 mg, 2 mmol) in THF (5 mL). Stir the resulting mixture for 5 min then the remove the cold bath and stir for an additional 3 hr. Quench the reaction with 1M HCl solution, dilute with ethyl acetate, wash with brine and dry over Mg SO4. Concentrate this solution under vacuum and purify the residue by flash chromatography (eluting with 20% ethyl acetate in heptane) to give the product (377 mg) as a white solid.

reactant | NaH | 2.05 mmol, 84 mg | [H-].[Na+]
reactant | [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methanol | 2 mmol, 546 mg | CC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NOS
reactant | 4-bromomethyl-benzoic acid methyl ester | 2 mmol, 458 mg | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-([4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl)-methoxymethyl]-benzoic acid methyl ester | 377 mg | COC(C1=CC=C(C=C1)C(OC)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C21H18F3NO3S
